US07691877B2
5-Isopropyl-oxazole-4-carboxylic acid ethyl ester
Ethyl isocyanoacetate (4.52 g) was added drop-wise to a stirred suspension of KOtBu in THF (35 ml) at 0° C. under nitrogen. After complete addition, the dark brown solution was stirred for 30 minutes and then a solution of isobutyryl chloride (2.1 ml) in THF (15 ml) added drop-wise, keeping the temperature below ˜10° C. The reaction was stirred for 1 hour then evaporated to dryness. The residue was treated with acetic acid (1.14 ml) and water (25 ml), and then extracted with ether (3×30 ml). The combined ether extracts were washed with saturated brine, dried over sodium sulfate, filtered and evaporated to give a brown oil that was purified by column chromatography, eluting with 1% MeOH in dichloromethane. This gave the title compound (1.91 g) as a colourless oil.

reactant | Ethyl isocyanoacetate | 4.52 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | isobutyryl chloride | 2.1 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-Isopropyl-oxazole-4-carboxylic acid ethyl ester | 1.91 g | C(C)OC(=O)C=1N=COC1C(C)C | C9H13NO3
